US07772243B2
Step 3: 4-Piperidin-1-yl-but-2-enoyl chloride
The HCl salt of 4-Piperidin-1-yl-but-2-enoic acid (250 mg, 1.48 mmol) was dissolved in dichloromethane (15 mL). Dimethylformamide (3 drops) was added. Oxalyl chloride (155 μL, 1.77 mmol) was added slowly and the reaction was stirred at room temperature for 1 hour. The mixture was concentrated under reduced pressure and the residue was used as is.

reactant | HCl | Cl | ClH
reactant | 4-Piperidin-1-yl-but-2-enoic acid | 1.48 mmol, 250 mg | N1(CCCCC1)CC=CC(=O)O | C9H15NO2
reactant | Oxalyl chloride | 1.77 mmol, 155 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | Dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 4-Piperidin-1-yl-but-2-enoyl chloride | N1(CCCCC1)CC=CC(=O)Cl | C9H14ClNO
